US04230707
L. 3,10-Dihydro-10-oxo-1H-pyrido[1,2-a]thieno[3,4-d]-pyrimidine-7-carbonitrile
A mixture of 3,10-dihydro-10-oxo-1H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxamide (2.9 g., 0.012 mol) and thionyl chloride (1.5 ml) in dimethylformamide (30 ml) is heated at 70° C. for 4 hours. The reaction mixture is cooled in an ice bath. The product, which precipitates, is filtered off and washed with water. Recrystallization from methanol gives a crystalline product (1.6 g.), mp 256°-257° C.

reactant | 3,10-dihydro-10-oxo-1H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxamide | 0.012 mol, 2.9 g | O=C1C2=C(N=C3N1C=C(C=C3)C(=O)N)CSC2 | C11H9N3O2S
reactant | thionyl chloride | 1.5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3,10-Dihydro-10-oxo-1H-pyrido[1,2-a]thieno[3,4-d]-pyrimidine-7-carbonitrile | O=C1C2=C(N=C3N1C=C(C=C3)C#N)CSC2 | C11H7N3OS
